US04680398
Manufacture of 2-isopropyl-3-thiocyanopyrazolo[1,5-a]pyridine
To a solution of 3 g of 2-isopropylpyrazolo[1,5-a]pyridine in 56 ml of methanol was added 5.74 g of potassium thiocyanate and stirred at room temperature. 3.3 g of bromine was dissolved in 13 ml of methanol saturated with potassium bromide and added dropwise to the previous solution. Then, the mixture was stirred at room temperature for an hour, poured into 130 ml of water and resulting precipitate was filtered and dried. This crude precipitate was recrystallized from methanol to give 3.53 g (yield 87%) of the aimed compound as pale yellow prismatic crystals. mp 91°-92.5° C.

reactant | 2-isopropylpyrazolo[1,5-a]pyridine | 3 g | C(C)(C)C1=NN2C(C=CC=C2)=C1 | C10H12N2
reactant | potassium thiocyanate | 5.74 g | [S-]C#N.[K+]
reactant | bromine | 3.3 g | BrBr | Br2
reactant | water | 130 ml | O | H2O
solvent | methanol | 56 ml | CO | CH4O
solvent | methanol | 13 ml | CO | CH4O
solvent | potassium bromide | [Br-].[K+]
product | 2-isopropyl-3-thiocyanopyrazolo[1,5-a]pyridine | 3.53 g, yield 87% | C(C)(C)C1=NN2C(C=CC=C2)=C1SC#N | C11H11N3S
